US04140713
b. 2-Chloro-5-[1-hydroxy-2-[N-(1-methyl-3-phenylpropyl)-N-(phenylmethyl)amino]ethyl]benzenesulphonamide
A mixture of 5-(2-bromoacetyl)-2-chlorobenzenesulphonamide (3.13 g) in butanone (50 ml) and N-(1-methyl-3-phenylpropyl)-N-(phenylmethyl)amine (4.8 g) was heated under reflux for 30 minutes. The solvent was removed under reduced pressure and the residue triturated with dry ether and filtered. The ether solution was evaporated to dryness and the product dissolved in ethanol (50 ml) and treated with sodium borohydride (0.3 g). The mixture was stirred for 30 minutes and a further aliquot of sodium borohydride (0.3 g) was added. The reaction mixture was acidified with 2N hydrochloric acid and the ethanol removed under reduced pressure. The concentrate was bastified with 5N sodium hydroxide and the mixture extracted with ethyl acetate (2 × 50 ml). The extracts were washed with water (2 × 50 ml), dried (MgSO4) and evaporated to dryness to give the product as a yellow oil, 4.6 g. This oil was purified by chromatography on preparative chromatographic plates (silica, CHCl3 /5% MeOH) and converted into a hydrochloride salt m.p. 120-125°.

reactant | 5-(2-bromoacetyl)-2-chlorobenzenesulphonamide | 3.13 g | BrCC(=O)C=1C=CC(=C(C1)S(=O)(=O)N)Cl | C8H7BrClNO3S
reactant | N-(1-methyl-3-phenylpropyl)-N-(phenylmethyl)amine | 4.8 g | CC(CCC1=CC=CC=C1)NCC1=CC=CC=C1 | C17H21N
solvent | butanone | 50 ml | CC(CC)=O | C4H8O
product | 2-Chloro-5-[1-hydroxy-2-[N-(1-methyl-3-phenylpropyl)-N-(phenylmethyl)amino]ethyl]benzenesulphonamide | ClC1=C(C=C(C=C1)C(CN(CC1=CC=CC=C1)C(CCC1=CC=CC=C1)C)O)S(=O)(=O)N | C25H29ClN2O3S
